US06403830B2
S-[(1R)-2-Amino-1-methylethyl]-2-methyl-L-cysteine hydrochloride
The product of Example-3C, S-[(1R)-2-(Benzyloxycarbonylamino)-1-methylethyl]-2-methyl-L-cysteine trifluoroacetate, (0.5 g, 1.14 mmol) was dissolved in 6N HCl and refluxed for 1.5 hour. The mixture was then cooled to room temperature and extracted with EtOAc. The aqueous layer was concentrated in vacuo to give the title product, (2R,5R)-S-(1-amino-2-propyl)-2-methyl-cysteine hydrochloride (0.29 g), which was used without further purification. 1H NMR (H2O, 400 MHz) δ1.2 (m, 3H), 1.4 (m, 3H), 2.7 (m, 1H), 2.8-3.2 (m, 2H), 3.4 (m, 1H). (some doubling of peaks due to rotameric forms). MS m/z (electrospray): 193 [M+H+] (61%), 176 (53), 142 (34), 134 (100), and 102 (10).

reactant | S-[(1R)-2-(Benzyloxycarbonylamino)-1-methylethyl]-2-methyl-L-cysteine trifluoroacetate | 1.14 mmol, 0.5 g | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC(=O)NC[C@@H](C)SC[C@](N)(C(=O)O)C
reactant | HCl | 6N | Cl | ClH
product | S-[(1R)-2-Amino-1-methylethyl]-2-methyl-L-cysteine hydrochloride | Cl.NC[C@@H](C)SC[C@](N)(C(=O)O)C | InChI=1S/C7H16N2O2S.ClH/c1-5(3-8)12-4-7(2,9)6(10)11;/h5H,3-4,8-9H2,1-2H3,(H,10,11);1H/t5-,7+;/m1./s1
